US08389511B2
tert-Butyl (rac.)-(3R,4R)-3-[[(benzyloxy)carbonyl](ethyl)amino]-4-[3-(benzyloxy)phenyl]piperidine-1-carboxylate
To a solution of tert-butyl (rac.)-(3R,4R)-3-{[(benzyloxy)carbonyl]amino}-4-[3-(benzyloxy)-phenyl]piperidine-1-carboxylate (3.70 g) in DMF (16 ml) was added at 0° C. sodium hydride (573 mg), and the mixture was stirred for 15 minutes. To the mixture was added ethyl iodide (1.48 ml), and the mixture was stirred at 60° C. for 5 hours. The reaction solution was cooled, and a saturated aqueous ammonium chloride solution was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous ammonium chloride solution (×2) and a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (the developing solvent: hexane/ethyl acetate=3/1) to give the title compound (2.59 g).

reactant | tert-butyl (rac.)-(3R,4R)-3-{[(benzyloxy)carbonyl]amino}-4-[3-(benzyloxy)-phenyl]piperidine-1-carboxylate | 3.70 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1CN(CC[C@@H]1C1=CC(=CC=C1)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C31H36N2O5
reactant | sodium hydride | 573 mg | [H-].[Na+]
reactant | ethyl iodide | 1.48 ml | C(C)I | C2H5I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 16 ml | CN(C)C=O | C3H7NO
product | tert-Butyl (rac.)-(3R,4R)-3-[[(benzyloxy)carbonyl](ethyl)amino]-4-[3-(benzyloxy)phenyl]piperidine-1-carboxylate | 2.59 g | C(C1=CC=CC=C1)OC(=O)N([C@H]1CN(CC[C@@H]1C1=CC(=CC=C1)OCC1=CC=CC=C1)C(=O)OC(C)(C)C)CC | C33H40N2O5
